US06503907B2
In analogy to example 10.8 (PtO2 was used instead of Pd/C), 2-({5-[1-(4-Ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl}-methyl-amino)-ethanol was converted to yield 2-({5-[1-(4-Ethyl-phenyl)-1H-indol-5-yl]-pentyl}-methyl-amino)-ethanol as colorless oil, MS: 365 (MH+).

reactant | 2-({5-[1-(4-Ethynyl-phenyl)-1H-indol-5-yl]-pent-4-ynyl}-methyl-amino)-ethanol | C(#C)C1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCN(CCO)C | C24H24N2O
catalyst | PtO2 | O=[Pt]=O
product | 2-({5-[1-(4-Ethyl-phenyl)-1H-indol-5-yl]-pentyl}-methyl-amino)-ethanol | C(C)C1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)CCCCCN(CCO)C | C24H32N2O
